US09079904B2
(B) Preparation of 5-methyl-3-(pyrrolidin-3-yl)-1H-indole
Lithium aluminum hydride (7.9 g, 200 mmol) in dry THF (380 mL) was stirred for 20 min. at RT under nitrogen atmosphere. 3-(5-Methyl-1H-indol-3-yl)pyrrolidine-2,5-dione (9.5 g, 41 mmol) was added portionwise and the reaction mixture was heated to reflux overnight. The reaction mixture was cooled to RT, quenched with aqueous sodium sulfate, and filtered. The solid was rinsed with THF and the THF layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (25% MeOH/DCM/ammonia) to afford the title compound. Yield: 4.2 g, 49.2%.

reactant | Lithium aluminum hydride | 200 mmol, 7.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(5-Methyl-1H-indol-3-yl)pyrrolidine-2,5-dione | 41 mmol, 9.5 g | CC=1C=C2C(=CNC2=CC1)C1C(NC(C1)=O)=O | C13H12N2O2
solvent | THF | 380 mL | C1CCOC1 | C4H8O
product | 5-methyl-3-(pyrrolidin-3-yl)-1H-indole | CC=1C=C2C(=CNC2=CC1)C1CNCC1 | C13H16N2
